US06787543B2
4N Hydrogen chloride in ethyl acetate solution (3 ml) was added to a solution of (2R)-2-[[N-(2-methoxybenzyl)-N-(2-oxo-3,3-diphenylpropyl)amino]methyl]piperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester (160 mg) in ethyl acetate (3 ml) at room temperature. After being stirred for 2 hours, the reaction mixture was concentrated under reduced pressure. The resulting residue was dissolved into dichloromethane (4 ml). Sodium triacetoxyborohydride (150 mg) was added to the stirred mixture and the whole was stirred at room temperature for 18 hours. The mixture was partitioned between ethyl acetate and 2N sodium hydroxide. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel using a mixed solvent of hexane and ethyl acetate (3:4) as an eluent to give (6R,9aR)-6-benzhydryl-8-(2-methoxybenzyl)octahydropyrazino[1,2-a]pyrazine-2-carboxylic acid benzyl ester (108 mg) as a colorless powder.

reactant | Hydrogen chloride | 4N | Cl | ClH
reactant | (2R)-2-[[N-(2-methoxybenzyl)-N-(2-oxo-3,3-diphenylpropyl)amino]methyl]piperazine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester | 160 mg | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)CN(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=C(C=CC=C1)OC | C41H47N3O6
reactant | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | (6R,9aR)-6-benzhydryl-8-(2-methoxybenzyl)octahydropyrazino[1,2-a]pyrazine-2-carboxylic acid benzyl ester | 108 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]2N(CC1)[C@@H](CN(C2)CC2=C(C=CC=C2)OC)C(C2=CC=CC=C2)C2=CC=CC=C2 | C36H39N3O3
